US07598397B2
Synthesis of 7-(3,4-Dichloro-phenoxy)-5-fluoro-3-methyl-1H-indole (−198C):
Following general method A-18, 7-Bromo-5-fluoro-3-methyl-1H-indole (727 mg, 3.19 mmol) was reacted with 3,4-dichlorophenol (779 mg, 4.78 mmol), CuI (60.8 mg, 0.319 mmol), N,N-dimethylglycine hydrochloride (134 mg, 0.957 mmol), and Cs2CO3 (2.07 g, 6.38 mmol) in anhydrous dioxane (6.4 mL). The crude product was purified by silica gel column chromatography utilizing a solvent system of 5% EtOAc/Hexanes to yield 506 mg of I-198C as a yellow oil (34%). 1H NMR (400 MHz, CDCl3).

reactant | 7-Bromo-5-fluoro-3-methyl-1H-indole | 3.19 mmol, 727 mg | BrC=1C=C(C=C2C(=CNC12)C)F | C9H7BrFN
reactant | 3,4-dichlorophenol | 4.78 mmol, 779 mg | ClC=1C=C(C=CC1Cl)O | C6H4Cl2O
reactant | N,N-dimethylglycine hydrochloride | 0.957 mmol, 134 mg | Cl.CN(CC(=O)O)C
reactant | Cs2CO3 | 6.38 mmol, 2.07 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dioxane | 6.4 mL | O1CCOCC1 | C4H8O2
catalyst | CuI | 0.319 mmol, 60.8 mg | [Cu]I
product | 7-(3,4-Dichloro-phenoxy)-5-fluoro-3-methyl-1H-indole | 34% | ClC=1C=C(OC=2C=C(C=C3C(=CNC23)C)F)C=CC1Cl | C15H10Cl2FNO
